US09108938B2
2-Trifluoromethyl-pyrimidine-5-carbaldehyde
To a solution of ethyl 2-trifluoromethyl-pyrimidine-5-carboxylate (1 g, 5 mmol) in DCM (23 mL) at −78° C. was added DIBAL-H (6 ml, 6 mmol, 1.0 M solution in toluene) slowly and stirred at the same temperature for 3 h. The mixture was quenched with slow addition of 2M hydrochloric acid and warmed to room temperature. The mixture was extracted with EtOAc (3×20 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to give the title compound (572 mg, yield: 71.5%). 1H NMR (CDCl3 400 MHz): δppm 10.27 (s, 1H), 9.35 (s, 2H).

reactant | ethyl 2-trifluoromethyl-pyrimidine-5-carboxylate | 5 mmol, 1 g | FC(C1=NC=C(C=N1)C(=O)OCC)(F)F | C8H7F3N2O2
reactant | DIBAL-H | 6 mmol, 1.0 M, 6 ml | CC(C)C[AlH]CC(C)C
solvent | DCM | 23 mL | C(Cl)Cl | CH2Cl2
product | 2-Trifluoromethyl-pyrimidine-5-carbaldehyde | 572 mg, yield: 71.5% | FC(C1=NC=C(C=N1)C=O)(F)F | C6H3F3N2O
